US04879141
1,3,5-trimethyl-2,4,6-tris(3,5-di-tert-butyl-4-hydroxybenzyl) benzene;
octadecyl 3-(3',5'-di-tert-butyl-4'-hydroxyphenyl)propionate; tetrakis[methylene (3,5-di-tert-butyl-4-hydroxyhydrocinnamate] methane; tris[3,5-di-t-butyl-4-hydroxybenzyl)isocyanurate; 3,5-di-tert-butyl-4-hydroxyhydrocinnamic acid triester with 1,3,5-tris(2-hydroxyethyl)-striazine-2,4,6(1H,3H,5H)-trione; 1,3,5-tris(4-tert-butyl-3-hydroxy-2,6-dimethylbenzyl) 1,3,5-triazine-2,4,6-(1H,3H,5H)-trione; bis-[3,3-bis(4'-hydroxy-3'tert-butyl-phenyl)-butanoic acid]-glycolester; 2,2'-methylenebis-(4-methyl-6-tertiary-butyl-phenol-terephthalate; 2,2-bis[4-2-(3,5-di-tert-butyl-4-hydroxyhydrocinnamoyloxy)) ethoxy-phenyl]propane; calcium bis[monoethyl(3,5-di-tert-butyl-4-hydroxybenzyl)phosphonate]; 1,2-bis(3,5-di-tert-butyl-4-hydroxyhydrocinnamoyl)hydrazine; and 2,2'-oxamidobis-[ethyl 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionate].

reactant | octadecyl 3-(3',5'-di-tert-butyl-4'-hydroxyphenyl)propionate | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OCCCCCCCCCCCCCCCCCC | C35H62O3
reactant | 1,3,5-tris(4-tert-butyl-3-hydroxy-2,6-dimethylbenzyl) 1,3,5-triazine-2,4,6-(1H,3H,5H)-trione | C(C)(C)(C)C1=C(C(=C(CN2C(N(C(N(C2=O)CC2=C(C(=C(C=C2C)C(C)(C)C)O)C)=O)CC2=C(C(=C(C=C2C)C(C)(C)C)O)C)=O)C(=C1)C)C)O | C42H57N3O6
reactant | 4-methyl-6-tertiary-butyl-phenol terephthalate | CC1=CC=C(C(=C1)C(C)(C)C)O.C(C1=CC=C(C(=O)[O-])C=C1)(=O)[O-]
reactant | propane | CCC | C3H8
reactant | calcium bis[monoethyl(3,5-di-tert-butyl-4-hydroxybenzyl)phosphonate] | C(C)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)P([O-])([O-])=O.C(C)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)P([O-])([O-])=O.[Ca+2].[Ca+2]
reactant | 1,2-bis(3,5-di-tert-butyl-4-hydroxyhydrocinnamoyl)hydrazine | C(C)(C)(C)C=1C=C(CCC(=O)NNC(CCC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)=O)C=C(C1O)C(C)(C)C | C34H52N2O4
catalyst | tetrakis | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,3,5-trimethyl-2,4,6-tris(3,5-di-tert-butyl-4-hydroxybenzyl) benzene | CC1=C(C(=C(C(=C1CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C54H78O3
